US04156777
3.28 g (12 mmol) of o-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate is dissolved in a mixture of 10 ml anhydrous dimethylformamide and 10 ml anhydrous ethanol, and to this solution is added little by little 1.79 g (10 mmol) of 1-amino-1-deoxy-β-D-glucopyranose powder, while stirring, at 5°-10° C. over 10 minutes. The resultant mixture is, after adding 5 ml of anhydrous dimethylformamide thereto, stirred further at 10° C. for 5 hours, and the thus reacted solution is concentrated at 40° C. and below, under reduced pressure. The crystalline residue obtained is washed with anhydrous ethyl ether and then with acetone, dried under reduced pressure, and recrystallized from anhydrous ethanol-ethyl ether (1:5) to give 2.47 g of 3-(β-D-glucopyranosyl)-1-(2-chloroethyl)-1-nitrosourea. Yield 78.7%. mp 77°-78° C. (decomp.). [α]D25 -10.3° (C 1.0, water). Analysis for C9H16N3O7Cl (MW 313.69):

reactant | o-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate | 12 mmol, 3.28 g | ClCCN(C(OC1=C(C=CC=C1)[N+](=O)[O-])=O)N=O | C9H8ClN3O5
reactant | 1-amino-1-deoxy-β-D-glucopyranose | 10 mmol, 1.79 g | N[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(β-D-glucopyranosyl)-1-(2-chloroethyl)-1-nitrosourea | 2.47 g, Yield 78.7% | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)NC(N(N=O)CCCl)=O | C9H16ClN3O7
